US07511145B2
Step 3: 1-Cyclohexyl-2-(4-oxo-2-phenyl-4H-chromen-6-yl)-1H-benzoimidazole-5-carboxylic acid (Compound 407)
4-Oxo-2-phenyl-4H-chromene-6-carboxylic acid (280 mg, 1.05 mmol) was dissolved in DMF (5 mL), and HATU (418 mg, 1.1 eq.) and diisopropyl ethylamine (402 μL) were added. After stirring at room temperature for 15 minutes, 3-amino-4-cyclohexylamino-benzoic acid ethyl ester (303 mg, 1.1 eq.) dissolved in 2 mL DMF was added. After stirring overnight, the reaction was evaporated, dissolved in ethyl acetate and washed with water and brine, dried with sodium sulfate, evaporated and dried overnight. The product was then refluxed in acetic acid for 4h, evaporated to dryness, and coevaporated 2 more times with toluene. Saponification proceeds by dissolving the residue in ethanol (10 mL), adding 10 eq. of 1N NaOH solution and stirring at 40° C. for 4 hr. The ethanol was evaporated, water was added and acidified. The resulting precipitate was purified via reverse-phase HPLC. Yield: 58 mg

reactant | 4-Oxo-2-phenyl-4H-chromene-6-carboxylic acid | 1.05 mmol, 280 mg | O=C1C=C(OC2=CC=C(C=C12)C(=O)O)C1=CC=CC=C1 | C16H10O4
reactant | HATU | 418 mg, 1.1 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropyl ethylamine | 402 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-amino-4-cyclohexylamino-benzoic acid ethyl ester | 303 mg, 1.1 eq. | C(C)OC(C1=CC(=C(C=C1)NC1CCCCC1)N)=O | C15H22N2O2
reactant | NaOH | 1N, 10 eq. | [OH-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-Cyclohexyl-2-(4-oxo-2-phenyl-4H-chromen-6-yl)-1H-benzoimidazole-5-carboxylic acid | C1(CCCCC1)N1C(=NC2=C1C=CC(=C2)C(=O)O)C=2C=C1C(C=C(OC1=CC2)C2=CC=CC=C2)=O | C29H24N2O4
